US04319024
9.7 g (0.1 mol) of 3-EAN and 21.4 g (0.2 mol) of benzylamine are refluxed for 4 h with removal of ethanol by distillation. Subsequent vacuum distillation yields 11.4 g of 3-benzylaminoacrylonitrile (72% with respect to 3-EAN).

reactant | benzylamine | 0.2 mol, 21.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 3-benzylaminoacrylonitrile | 11.4 g, 72% | C(C1=CC=CC=C1)NC=CC#N | C10H10N2
